2176-05-03 07:07:00 Physician Resident Progress Note
Chief Complaint: CC: Abdominal Pain
   [**Hospital Unit Name 44**] Admission: Respiratory Failure, Diverticulitis
   24 Hour Events:
   - Surgery following - PO okay for meds
   - Neuro following: they do not feel that she needs steroids because
   they don't feel this is consistent with myasthenia flare.  Consider
   IVIG if unable to extubate.  not a great candidate for plasmapheresis.
   holding off IVIG till tomorrow, restarted mestanone (Pyridostigmine
   Bromide)
   - bolused IVF's
   - BCx, UCx pnd, Gram stain neg.
   - d/c heparin and flagyl, now on vanc and zosyn
   - bronch didn't show any evidence of pneumonia
   - back on AC, failed PS
 BRONCHOSCOPY - At [**2176-5-2**] 01:00 PM
 FEVER - 101.2
F - [**2176-5-2**] 04:00 PM
   Patient unable to provide history: Sedated
   Allergies:
   Prempro (Oral) (Estrogen
   Con/M-Progest Acet)
   Headache;
   Fiorinal (Oral) (Butalbital/Aspirin/Caffeine)
   Headache;
   Erythromycin Base
   Avoid all mycin
   Aleve (Oral) (Naproxen Sodium)
   leg edema.;
   Last dose of Antibiotics:
   Metronidazole - [**2176-5-2**] 09:00 AM
   Vancomycin - [**2176-5-2**] 08:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-5-3**] 06:10 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-5-2**] 08:25 PM
   Heparin Sodium (Prophylaxis) - [**2176-5-3**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-3**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.4
C (97.5
   HR: 61 (57 - 120) bpm
   BP: 125/71(84) {92/49(60) - 168/97(133)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.4 kg (admission): 95.6 kg
             Total In:
                                                                  6,230 mL
                                                                    291 mL
   PO:
             TF:
   IVF:
                                                                  6,230 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    240 mL
   Urine:
                                                                    745 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,485 mL
                                                                     51 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 114 (114 - 114) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 152
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ///26/
   NIF: -7 cmH2O
   Ve: 10 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   11.5 g/dL
   88 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.3 mEq/L
   14 mg/dL
   112 mEq/L
   145 mEq/L
   35.1 %
   7.7 K/uL
        [image002.jpg]
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
                             [**2176-5-2**]  02:11 AM
                             [**2176-5-2**]  04:30 AM
                             [**2176-5-2**]  04:20 PM
                             [**2176-5-3**]  04:24 AM
   WBC
   9.7
   7.7
   Hct
   36.9
   35.1
   Plt
   183
   142
   Cr
   0.6
   0.6
   TCO2
   30
   Glucose
   137
   88
   Other labs:
   PT / PTT / INR:14.1/25.9/1.2
   Imaging:
   CT Torso: IMPRESSION: 1. Sigmoid diverticulitis with adjacent punctate
   foci of air compatible with focal perforation, mildly worsened in
   appearance from prior study. No drainable fluid collection. 2. New left
   lower lobe collapse secondary to mucus plugging / aspiration.  3.
   Nondiagnostic study for evaluation of pulmonary embolism. No central
   thrombus. In case of continued clinical concern for pulmonary embolism,
   a repeat study can be obtained.
   CXR [**2176-5-2**]:
   FINDINGS: In comparison with the study of earlier in this date, the tip
   of
   the endotracheal tube now measures approximately 2.6 cm above the
   carina.
   Nasogastric tube again extends well into the stomach. Extensive
   opacification
   is seen at the left base consistent with volume loss and pleural
   effusion.
   There is apparent opacification in the left perihilar region. This
   could
   represent an area of developing aspiration or volume loss related to
   mucus
   plugging.
   Assessment and Plan
   65 year old woman with hisotry of Myasthenia [**Last Name (un) **] who presents with
   progressive abdominal pain and respiratory failure likely 2/2 MG flare
   vs PE.
   .
   ## Respiratory Failure: Initial concern of PNA vs. myesthenic crisis.
   No organisms on bronch, no leukocytosis, T to 101.2 yesterday at 1600,
   but concomitant diverticulitis makes inflammatory markers less useful.
   Unable to move to PSV yesterday.  Per neuro, this is less likely
   myasthenia [**Last Name (un) 3383**] based on exam, but recommended following NIFs and
   initiating IVIG if evidence of new weakness.  Also could be an element
   of splinting from abdominal pain.
   - Continue antibiotics
   - f/u Sputum culture
   - propofol for sedation
   - wean vent as tolerated, continue daily SBTs
   - follow NIFs/VCs/TVs while on vent (wean when VC>15, NIF<-30)
   - neuro recs
   .
   ## Diverticulitis: Diagnosed as o/p and confirmed by abdominal imaging
   here with focal perf no drainable fluid collection and no free air.
   Per surgery can restart PO.
   - continue zosyn
   - IVF PRN to keep UOP >30cc/hr
   - f/u surgery recs
   - start tube feeds, PO meds (clear with surgery)
   .
   ## HypoK: Had hypokalemia on last admission and in ED. Repleted in ED.
   - follow lytes
   - replete Prn
   - rechec K now
   .
   ## MG: As above may be in flare from diverticulitis. On pyridostigmine
   at home.
   - restart mestanone (pyridostigmine)
   - Checking NIFs/VC's Q6H
   - Avoid aminoglycosides as can precipitate MG
   - Avoid MG exacerbating meds prior
   - follow up neuro recs
   ,
   ## HTN: Has h/o HTN. Currently not hypertensive and propofol will drop
   bps so will hold meds for now.
   .
   ICU Care
   Nutrition:
   Comments: NPO -> start tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-5-2**] 11:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2176-05-03 10:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2176-5-2**] 01:00 PM
 FEVER - 101.2
F - [**2176-5-2**] 04:00 PM
                                       History obtained from Medical records
   Allergies:
   Prempro (Oral) (Estrogen
   Con/M-Progest Acet)
   Headache;
   Fiorinal (Oral) (Butalbital/Aspirin/Caffeine)
   Headache;
   Erythromycin Base
   Avoid all mycin
   Aleve (Oral) (Naproxen Sodium)
   leg edema.;
   Last dose of Antibiotics:
   Metronidazole - [**2176-5-2**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2176-5-3**] 06:10 AM
   Vancomycin - [**2176-5-3**] 08:12 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-5-3**] 07:25 AM
   Heparin Sodium (Prophylaxis) - [**2176-5-3**] 07:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-3**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.6
C (97.9
   HR: 59 (57 - 120) bpm
   BP: 113/65(75) {92/49(60) - 168/97(133)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 102.4 kg (admission): 95.6 kg
   Height: 64 Inch
             Total In:
                                                                  6,230 mL
                                                                    607 mL
   PO:
             TF:
   IVF:
                                                                  6,230 mL
                                                                    607 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    320 mL
   Urine:
                                                                    745 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,485 mL
                                                                    287 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 152
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 98%
   ABG: ///22/
   NIF: -7 cmH2O
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   142 K/uL
   80 mg/dL
   0.6 mg/dL
   22 mEq/L
   2.9 mEq/L
   13 mg/dL
   113 mEq/L
   145 mEq/L
   35.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2176-5-2**]  02:11 AM
                             [**2176-5-2**]  04:30 AM
                             [**2176-5-2**]  04:20 PM
                             [**2176-5-3**]  04:24 AM
   WBC
   9.7
   7.7
   Hct
   36.9
   35.1
   Plt
   183
   142
   Cr
   0.6
   0.6
   0.6
   TCO2
   30
   Glucose
   137
   88
   80
   Other labs: PT / PTT / INR:14.1/25.9/1.2, Differential-Neuts:79.3 %,
   Lymph:13.9 %, Mono:6.0 %, Eos:0.5 %, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.9 mg/dL
   BAL
Culture negative, 4+ PMNs on bronch
   Imaging: CXR-ETT in good position, opacities without significant change
   CT-Sigmoid diverticulitis, no focal fluid collection, LLL collapse.
   Non-diagnostic study for PE
   Assessment and Plan
   Patient with initial admission with respiratory distress and with
   hypoxia and hypercarbia in the setting of left lower lobe collapse
   concerning for pneumonia and patient with measured NIF decreased a
   component of neuro-muscular weakness has been raised as a concern but
   peripheral exam has not supported this.  We have bronchoscopy completed
   with reasonable clearance of airways proximally and are looking to move
   to wean of ventilator support as limited by patient tolerance.
   Pulmonary embolism was raised as a possibility but we have a
   presentation with hypercarbia and lesser contribution from hypoxia and
   CT scan without PE seen (although sub-optimal study) and alternative
   explanation of pneumonia and neuro-muscular weakness and opiod use all
   contributing to respiratory failure making PE very unlikely and with
   risk of bleeding and renal risk of dye load hperain remains
   discontinued.
   1)Respiratory Failure-This is a multifactorial source of respiratory
   failure with pneumonia certainly driving a component of this.  We have
   concern for muscular weakness but the rest of exam is reassuring and
   NIF if favorable this morning.  Finally, increased demand with active
   diverticulitis seen with hope for improved component of acitve sytsemic
   infection. With secretions reasonably controlled will move to
   -PSV support today
   -Check of RSBI if PEEP and FIO2 favorable but will need increased
   treatment time for pneumonia
   -Hope to move to extubation with stability seen in oxygenation and
   ventilation on these settings but will need substantial improvement in
   secretion volume.
   2)Pneumonia
Patient has clear evidence of focal opacity and now with
   fever noted across yesterday
pathogen not clearly seen
   -Vanco/Zosyn/Flagyl
continue for a minimum of 3 days
   -Continue with suctioning and pulmonary toilet as we have increased
   secretions through to this morning.
   -Continued suctioning and continue with PEEP
   3)Myasthenia [**Last Name (un) **]
   -NIF is -30 this morning
   -Chronic treatment in place
   -We do not have evidence of peripheral weakness
   -If treatment is required we will need to consider IV Ig and Cellcept
   4)DIVERTICULITIS-
   -Will continue with broad spectrum antibiotics
   -Will continue with bowel rest
   -Vanco/Zosyn/Flagyl
   ICU Care
   Nutrition: Tube feeds to start only with input from surgical team
   we will restart po medications
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-5-2**] 11:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Oral care, chlorhexedine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2176-05-04 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - increased pulmonary secretions noted by respiratory
   - called by radiology re: large [**MD Number(3) 11984**], concerned for PE, ordered
   CTA
   - CTA wet read:
   1. No central or lobar PE. No acute aortic pathology.
   2. Collapse of LLL. Leftward shift of mediastinal structures.
   3. Small left-sided pleural effusion.
   4. Right basilar atelectasis.
   - Put on APRV P high 15 / P low 5 / T high 5 / T low 0.8, didn't
   tolerate, now back on assist control with propofol
   Allergies:
   Prempro (Oral) (Estrogen
   Con/M-Progest Acet)
   Headache;
   Fiorinal (Oral) (Butalbital/Aspirin/Caffeine)
   Headache;
   Erythromycin Base
   Avoid all mycin
   Aleve (Oral) (Naproxen Sodium)
   leg edema.;
   Last dose of Antibiotics:
   Metronidazole - [**2176-5-2**] 09:00 AM
   Vancomycin - [**2176-5-3**] 07:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-5-4**] 04:49 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-5-3**] 07:23 PM
   Morphine Sulfate - [**2176-5-3**] 10:52 PM
   Heparin Sodium (Prophylaxis) - [**2176-5-3**] 11:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-4**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 59 (55 - 104) bpm
   BP: 120/52(68) {94/47(57) - 162/102(106)} mmHg
   RR: 20 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.6 kg (admission): 95.6 kg
   Height: 64 Inch
             Total In:
                                                                  1,251 mL
                                                                    189 mL
   PO:
             TF:
   IVF:
                                                                  1,251 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    320 mL
   Urine:
                                                                  1,225 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     26 mL
                                                                   -131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 266 (266 - 266) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 119
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: ///21/
   Ve: 8.1 L/min
   Physical Examination
   General: Sedated, intubated.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus
   Neck: supple, no significant JVD or carotid bruits appreciated
   Pulmonary: Lungs CTA bilaterally anteriorly, no wheezes, ronchi or
   rales
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, ND, normoactive bowel sounds, no masses or organomegaly
   noted, no rebound
   Extremities: No edema, 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Labs / Radiology
   142 K/uL
   11.5 g/dL
   73 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.2 mEq/L
   12 mg/dL
   111 mEq/L
   145 mEq/L
   35.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2176-5-2**]  02:11 AM
                             [**2176-5-2**]  04:30 AM
                             [**2176-5-2**]  04:20 PM
                             [**2176-5-3**]  04:24 AM
                             [**2176-5-3**]  03:00 PM
   WBC
   9.7
   7.7
   Hct
   36.9
   35.1
   Plt
   183
   142
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   30
   Glucose
   137
   88
   80
   73
   Other labs: PT / PTT / INR:14.1/25.9/1.2, Differential-Neuts:79.3 %,
   Lymph:13.9 %, Mono:6.0 %, Eos:0.5 %, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.7 mg/dL
   Imaging: CTA [**5-3**] wet read:
   1. No central or lobar PE. No acute aortic pathology.
   2. Collapse of LLL. Leftward shift of mediastinal structures.
   3. Small left-sided pleural effusion.
   4. Right basilar atelectasis.
   CXR (my read):
   Interval improvement in LLL collapse. Stable RLL process (atelecatsis
   vs. consolidation from PNA)
   Microbiology: BAL negative ([**5-2**])
   Sputum prelim negative, cltx pending ([**5-3**])
   Blood cultures NGTD.
   UA: cloudy, trace leuks, large blood > 100 WBC, culture pending.
   Assessment and Plan
   65 year old woman with hisotry of Myasthenia [**Last Name (un) **] who presents with
   progressive abdominal pain and respiratory failure likely 2/2 MG flare
   vs PE.
   .
   ## Respiratory Failure: Initial concern of PNA vs. myasthenia crisis.
   No organisms on bronch, no leukocytosis, no fever spikes overnight.
   Concomitant diverticulitis makes inflammatory markers less useful.
   Unable to move to PSV yesterday, continues on CMV.  Per neuro, this is
   less likely myasthenia [**Last Name (un) 3383**] based on exam, but recommend following
   NIFs and initiating IVIG if evidence of new weakness.  Also could be an
   element of splinting from abdominal pain.
   - Continue antibiotics: Vanc/Zosyn day 3
   - f/u sputum culture
   - propofol for sedation
   - wean vent as tolerated, continue daily SBTs
   - follow NIFs/VCs/TVs while on vent (wean when VC>15, NIF<-30)
   - neuro recs
   .
   ## Diverticulitis: Diagnosed as o/p and confirmed by abdominal imaging
   here with focal perf no drainable fluid collection and no free air.
   Per surgery can restart PO, but pt was not started on tube feeds
   yesterday.
   - continue zosyn
   - IVF PRN to keep UOP >30cc/hr
   - f/u surgery recs
   - consider starting tube feeds, PO meds (clear with surgery)
   .
   ## HypoK: Had hypokalemia on last admission and in ED. Repleted in ED.
   - follow lytes
   - replete Prn
   - rechec K now
   .
   ## MG: As above may be in flare from diverticulitis. On pyridostigmine
   at home.
   - restart mestanone (pyridostigmine)
   - Checking NIFs/VC's Q6H
   - Avoid aminoglycosides as can precipitate MG
   - Avoid MG exacerbating meds prior
   - follow up neuro recs
   ,
   ## HTN: Has h/o HTN. Currently not hypertensive and propofol will drop
   bps so will hold meds for now.
   .
   ## Anemia: Pt noted to have a HCT drop over the past few days: 42.4
   36.9
 35.1.  Unclear if this is secondary to ?perforation (GI source),
   antibiotics, or underlying infection.  No IVFs since [**5-2**] but LOS
   +5.4L.
   -Guaiac all stools
   -Trend [**Hospital1 **] HCT, tfuse for HCT < 21
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-5-2**] 11:05 PM
   22 Gauge - [**2176-5-3**] 06:05 PM
   PICC request placed.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with Dr [**Last Name (STitle) 11986**]
 note
   above.
   Ms [**Known lastname 509**] is responsive to commands and has good strength in all
   extremities on minimal sedation.,
   Secretion output is minimal. Her FiO2 has been stable and CXR continues
   to show basilar infiltrates and atelectasis. We will place on CPAP/ PSV
   of [**6-12**] and recheck an ABG in 2 hrs. I suspect this is her window of
   opportunity to extubate before she has problems with nosocomial PNA.
   She will need aggressive chest PT, help with secretion clearance after
   extubation and prn BiPAP assistance with dyspnea and sleep ( h/o OSA on
   BiPAP 12/8 cms).  I do not believe she is in MG crisis at this time.
   NIF better at -30 cms and surgical staff have cleared her for oral
   feeds.
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],M.D.
   Pulmonary , Critical Care and Sleep Medicine,
   CC time: 45 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2176-5-4**] 01:22 PM ------

2176-05-05 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pts PIVs infiltrated overnight. PICC order in but not placed as pt
   had spiked temp o/n [**Date range (1) 11988**]. Will need PICC placed tomorrow. O/n RN
   placed antecubital PIV.
   - Propofol turned down at 4 AM; pt noted to have large amounts of very
   watery thin secretions, was breathing over the vent, unable to
   tolerate. ?pulmonary edema (pt is +6L LOS). Propofol put back on as a
   result. 4 AM pyridostigmine dose held today to help with secretions.
   Allergies:
   Prempro (Oral) (Estrogen
   Con/M-Progest Acet)
   Headache;
   Fiorinal (Oral) (Butalbital/Aspirin/Caffeine)
   Headache;
   Erythromycin Base
   Avoid all mycin
   Aleve (Oral) (Naproxen Sodium)
   leg edema.;
   Last dose of Antibiotics:
   Metronidazole - [**2176-5-2**] 09:00 AM
   Vancomycin - [**2176-5-4**] 07:48 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-5-5**] 05:03 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-5-4**] 07:48 PM
   Morphine Sulfate - [**2176-5-4**] 09:49 PM
   Lorazepam (Ativan) - [**2176-5-4**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2176-5-4**] 11:26 PM
   Other medications:
   Flowsheet Data as of  [**2176-5-5**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.4
   HR: 59 (52 - 102) bpm
   BP: 117/90(97) {96/35(51) - 146/90(100)} mmHg
   RR: 18 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.6 kg (admission): 95.6 kg
   Height: 64 Inch
             Total In:
                                                                  2,240 mL
                                                                    445 mL
   PO:
             TF:
   IVF:
                                                                  1,960 mL
                                                                    445 mL
   Blood products:
   Total out:
                                                                  1,015 mL
                                                                    170 mL
   Urine:
                                                                  1,015 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,225 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 373 (373 - 475) mL
   PS : 5 cmH2O
   RR (Set): 17
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 108
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 99%
   ABG: ///22/
   Ve: 6.4 L/min
   Physical Examination
   General: Sedated, intubated.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus
   Neck: supple, no significant JVD or carotid bruits appreciated
   Pulmonary: Lungs CTA bilaterally anteriorly, no wheezes, ronchi or
   rales
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, ND, normoactive bowel sounds, no masses or organomegaly
   noted, no rebound
   Extremities: No edema, 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Labs / Radiology
   143 K/uL
   9.6 g/dL
   66 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.1 mEq/L
   10 mg/dL
   120 mEq/L
   149 mEq/L
   28.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2176-5-2**]  02:11 AM
                             [**2176-5-2**]  04:30 AM
                             [**2176-5-2**]  04:20 PM
                             [**2176-5-3**]  04:24 AM
                             [**2176-5-3**]  03:00 PM
                             [**2176-5-4**]  11:33 AM
                             [**2176-5-5**]  02:56 AM
   WBC
   9.7
   7.7
   11.4
   6.7
   Hct
   36.9
   35.1
   36.8
   28.9
   Plt
   183
   142
   153
   143
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   0.5
   TCO2
   30
   Glucose
   137
   88
   80
   73
   84
   66
   Other labs: PT / PTT / INR:14.1/25.9/1.2, ALT / AST:[**8-23**], Alk Phos / T
   Bili:24/0.3, Differential-Neuts:79.3 %, Lymph:13.9 %, Mono:6.0 %,
   Eos:0.5 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:195 IU/L,
   Ca++:6.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR: (my read)  no significant interval change in bilateral
   effusions/consolidation.
   Microbiology: [**5-4**] cdiff negative.
   [**5-3**] urine culture negative.
   [**5-2**] blood cultures NGTD.
   Assessment and Plan
   65 year old woman with history of Myasthenia [**Last Name (un) **] and diverticular
   disease who presented with progressive abdominal pain from
   diverticulitis flare and respiratory failure secondary to pneumonia.
   .
   ## Respiratory Failure: Initial concern of PNA vs. myasthenia crisis.
   No organisms on bronch, no leukocytosis, no fever spikes overnight.
   Unable to move to PSV, continues on CMV.  Per neuro, this is less
   likely myasthenia [**Last Name (un) 3383**] flare based on exam, but recommend following
   NIFs and initiating IVIG if evidence of new weakness.  Also patient had
   an element of splinting from abdominal pain.  Sputum, blood, urine
   cultures all negative to date.  Plan was to extubate patient this AM,
   but she is having large amounts of watery secretions that are making
   her unable to wean from propofol.  As this is in setting of pt being
   +6L LOS, concern for component of pulmonary edema, although CXR looks
   largely unchanged.
   - Continue antibiotics: Vanc/Zosyn day 4
   - Diurese with IV lasix today, goal -1L as BP tolerates. Given 20 mg IV
   lasix this AM.
   - propofol for sedation
   - wean vent as tolerated, continue daily SBTs
   - follow NIFs/VCs/TVs while on vent (wean when VC>15, NIF<-30)
   -  F/u neuro recs
   .
   ## Diverticulitis: Diagnosed as outpatient and confirmed by abdominal
   imaging here with focal microperfortaion without drainable fluid
   collection or free air.  Per surgery can restart PO, but pt was not
   started on tube feeds yesterday.
   - continue Zosyn
   - IVF PRN to keep UOP >30cc/hr
   - f/u surgery recs
   - consider starting tube feeds, PO meds
   .
   ## HypoK: Had hypokalemia on last admission and in ED, 3.1 this AM.
   Repleted in ED.
   - follow lytes [**Hospital1 **] now with diuresis and replete prn
   .
   ## MG: On pyridostigmine at home, 4 AM dose today held in anticipation
   of extubation.
   - Avoid aminoglycosides as can precipitate MG
   - follow up neuro recs
   ,
   ## HTN: Has h/o HTN. Currently not hypertensive and propofol will drop
   bps so will hold meds for now.
   .
   ## Anemia: Pt noted to have a HCT drop over the past few days: 42.4
   36.9
 35.1
 28.9.  Unclear if this is secondary to ?perforation (GI
   source), antibiotics, volume overload with dilution, or underlying
   infection.  LOS +6L.
   -Guaiac all stools-have been negative
   -Trend [**Hospital1 **] HCT, tfuse for HCT < 21
   ICU Care
   Nutrition: NPO
   20 Gauge - [**2176-5-4**] 09:51 PM
   PICC request placed.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication:  Patient
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I saw and examined the patient, and was physically present with the ICU
   resident for the key portions of the services provided. I agree with
   the note above, including the assessment and plan.  To that I would add
   the following:
   Ms [**Known lastname 509**] has needed help with secretion clearance on CPAP/ PSV on
   [**5-4**] ( Q 2hr!) and this has precluded her extubation yesterday. She is
   low grade febrile but alert and quite responsive to commands. She is
   able to move all 4 extremities. NIF today is -20. Her CXR shows
   bilateral perihilar vascular congestion, bibasilar effusions vs
   atelectasis.
   She will need CVL placement today, dose reduction in mestinon ( 30 mg q
   6) and gentle diuresis to help with vent wean. I suspect she will have
   another attempt on CPAP/ PSV later today and if secretions are not
   limiting, possible extubation within next 24 hrs.
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**], M.D.
   Pulmonary, Critical Care and Sleep Medicine.
   CC time: 45 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2176-5-5**] 12:22 ------

2176-05-06 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2176-5-5**] 03:45 PM
   - IV team could not place PICC line; only has 1 antecub PIV
   - Left Subclavian Central line placed for Access; moved back 1.5cm
   - put out >1500cc to 20mg IV lasix in evening --> almost -1L for 24hrs
   - need to keep Phos aggressively repleted - had to replete in PM again
   - will keep mestinon on [**2-10**] dose (30mg Q8h) for now, then ask neuro if
   we can hold dose prior to extubation when ready ; timing of when
   propofol starts decreasing for SBT trials needs to be further away from
   prev dose of mestinon
   - hold on extubation b/c of persistent secretions
   - may have pulm edema b/c +6L for length of stay
   - PM Hct stable; hemolysis labs normal
   - Assist control 50% FiO2 overnight
   - gave 1 pkt neutra phos and po 40meq po K at 4:30am --> if plan to
   extubate today, give enough time after these were given, so that she
   doesn't aspirate
   - RSBI 30
   Allergies:
   Prempro (Oral) (Estrogen
   Con/M-Progest Acet)
   Headache;
   Fiorinal (Oral) (Butalbital/Aspirin/Caffeine)
   Headache;
   Erythromycin Base
   Avoid all mycin
   Aleve (Oral) (Naproxen Sodium)
   leg edema.;
   Last dose of Antibiotics:
   Vancomycin - [**2176-5-5**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-5-6**] 04:51 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2176-5-5**] 06:00 PM
   Famotidine (Pepcid) - [**2176-5-5**] 07:14 PM
   Heparin Sodium (Prophylaxis) - [**2176-5-5**] 11:22 PM
   Morphine Sulfate - [**2176-5-6**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-6**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 55 (52 - 80) bpm
   BP: 146/59(78) {98/45(58) - 165/85(94)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.6 kg (admission): 95.6 kg
   Height: 64 Inch
    CVP: 12 (7 - 13)mmHg
   Total In:
                                                                  1,997 mL
                                                                    516 mL
   PO:
   TF:
   IVF:
                                                                  1,597 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                  2,905 mL
                                                                    275 mL
   Urine:
                                                                  2,905 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -908 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube, Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 438 (438 - 438) mL
   PS : 10 cmH2O
   RR (Set): 17
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 97%
   ABG: ///28/
   Ve: 10.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   10.7 g/dL
   71 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.5 mEq/L
   11 mg/dL
   110 mEq/L
   149 mEq/L
   32.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2176-5-2**]  02:11 AM
                             [**2176-5-2**]  04:30 AM
                             [**2176-5-2**]  04:20 PM
                             [**2176-5-3**]  04:24 AM
                             [**2176-5-3**]  03:00 PM
                             [**2176-5-4**]  11:33 AM
                             [**2176-5-5**]  02:56 AM
                             [**2176-5-5**]  05:43 PM
                             [**2176-5-6**]  03:21 AM
   WBC
   9.7
   7.7
   11.4
   6.7
   6.3
   6.6
   Hct
   36.9
   35.1
   36.8
   28.9
   32.5
   32.4
   Plt
   183
   142
   153
   143
   176
   162
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   0.5
   0.5
   0.5
   TCO2
   30
   Glucose
   137
   88
   80
   73
   84
   66
   65
   71
   Other labs: PT / PTT / INR:14.1/25.9/1.2, ALT / AST:[**8-23**], Alk Phos / T
   Bili:24/0.3, Differential-Neuts:79.3 %, Lymph:13.9 %, Mono:6.0 %,
   Eos:0.5 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:195 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   65 year old woman with history of Myasthenia [**Last Name (un) **] and diverticular
   disease who presented with progressive abdominal pain from
   diverticulitis flare and respiratory failure secondary to pneumonia.
   .
   ## Respiratory Failure: Initial concern of PNA vs. myasthenia crisis.
   No organisms on bronch, no leukocytosis.  Unable to move to PSV,
   continues on CMV.  Per neuro, this is less likely myasthenia [**Last Name (un) 3383**]
   flare based on exam, but recommend following NIFs and initiating IVIG
   if evidence of new weakness.  Also patient had an element of splinting
   from abdominal pain.  Sputum, blood, urine cultures all negative to
   date.  Plan was to extubate patient this AM, but she is having large
   amounts of watery secretions that are making her unable to wean from
   propofol.  As this is in setting of pt being +6L LOS, concern for
   component of pulmonary edema, although CXR looks largely unchanged.
   - Continue antibiotics: Vanc/Zosyn day 5
   - Diurese with IV lasix today, goal -1.5 - 2L as BP tolerates. Given 20
   mg IV lasix this AM.
   - propofol for sedation
   - continue daily SBTs
   - follow NIFs/VCs/TVs while on vent (wean when VC>15, NIF<-30)
   - repeat TTE, as we feel that volume may be complicating her
   respiratory status at this time.  Known moderate pulm HTN on echo in
   [**2172**].
   - uptitrate PEEP to 10 cm H2O to facilitate improved LLL expansion
   - f/u neuro recs; specific question is whether pyridostigmine can be
   held in anticipation for extubation as this may be causing her
   excessive secretions, which are complicating plan for extubation
   .
   ## Diverticulitis: Diagnosed as outpatient and confirmed by abdominal
   imaging here with focal microperforation without drainable fluid
   collection or free air.  Per surgery can restart PO, but pt was not
   started on tube feeds yesterday.
   - continue Zosyn
   - f/u surgery recs
   - nutrition recs re: tube feeds
   - start tube feeds
   .
   ## HypoK: Had hypokalemia on last admission and in ED, 3.1 this AM.
   Repleted in ED.
   - follow lytes [**Hospital1 **] now with diuresis and replete prn
   .
   ## MG: On pyridostigmine at home, 4 AM dose today held in anticipation
   of extubation.
   - Avoid aminoglycosides as can precipitate MG
   - follow up neuro recs
   .
   ## HTN: Has h/o HTN. Currently not hypertensive and propofol will drop
   bps so will hold meds for now.
   .
   ## Anemia: Pt noted to have a HCT drop over the past few days: 42.4
   36.9
 35.1
 28.9.  Could be [**3-12**] dilution from volume overload, as
   patient
s Hct back up to 32.4 today after lasix diuresis.
   - Guaiac all stools
 negative thus far
   - Trend HCT, xfuse for HCT < 21
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PULMONARY EMBOLISM (PE), ACUTE
 DIVERTICULITIS
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-5-4**] 09:51 PM
   Multi Lumen - [**2176-5-5**] 03:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-05-07 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Ongoing pulmonary secretions prevented extubation attempt
   - Neuro: hold mestanon to see if there is improvemetn of pulmonary
   secretions and continue diuresis.  If no improvement tomorrow, will
   give IVIG
   - tube feeds resumed
   - [**Doctor First Name **] recs: advance tube feed as tolerated, 2 wks abx, f/u with Dr.
   [**Last Name (STitle) 12003**] after d/c
   - given lasix 20 IV x 2 - negative 1800 for the day
   - Echo results: Compared with the prior study (images reviewed) of
   [**2172-12-16**], the findings are similar. Mild biiventricular hypertrophy
   was present in the prior study.  EF > 75%.
   - Dr. [**Last Name (STitle) 5975**] notified of her hospitalization by email
   - started on B12 supplements for perisistent macrocytic anemia with low
   normal B12 level
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPrempro (Oral) (Estrogen
   Con/M-Progest Acet)
   Headache;
   Fiorinal (Oral) (Butalbital/Aspirin/Caffeine)
   Headache;
   Erythromycin Base
   Avoid all mycin
   Aleve (Oral) (Naproxen Sodium)
   leg edema.;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2176-5-6**] 01:54 PM
   Vancomycin - [**2176-5-6**] 08:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-5-6**] 03:34 PM
   Furosemide (Lasix) - [**2176-5-6**] 04:41 PM
   Famotidine (Pepcid) - [**2176-5-6**] 08:11 PM
   Morphine Sulfate - [**2176-5-6**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-5-7**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 58 (56 - 97) bpm
   BP: 111/66(76) {111/51(68) - 176/104(118)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.1 kg (admission): 95.6 kg
   Height: 64 Inch
    CVP: 11 (8 - 15)mmHg
   Total In:
                                                                  1,496 mL
                                                                    209 mL
   PO:
   TF:
                                                                    162 mL
                                                                    139 mL
   IVF:
                                                                  1,004 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                    550 mL
   Urine:
                                                                  3,355 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,859 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (330 - 523) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: ///34/
   NIF: -20 cmH2O
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   195 K/uL
   11.4 g/dL
   91 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.4 mEq/L
   13 mg/dL
   103 mEq/L
   146 mEq/L
   34.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2176-5-2**]  04:30 AM
                             [**2176-5-2**]  04:20 PM
                             [**2176-5-3**]  04:24 AM
                             [**2176-5-3**]  03:00 PM
                             [**2176-5-4**]  11:33 AM
                             [**2176-5-5**]  02:56 AM
                             [**2176-5-5**]  05:43 PM
                             [**2176-5-6**]  03:21 AM
                             [**2176-5-6**]  02:55 PM
                             [**2176-5-7**]  04:30 AM
   WBC
   9.7
   7.7
   11.4
   6.7
   6.3
   6.6
   7.3
   Hct
   36.9
   35.1
   36.8
   28.9
   32.5
   32.4
   34.1
   Plt
   183
   142
   153
   143
   176
   162
   195
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   0.5
   0.5
   0.5
   0.6
   0.7
   Glucose
   137
   88
   80
   73
   84
   66
   65
   71
   77
   91
   Other labs: PT / PTT / INR:14.1/25.9/1.2, ALT / AST:[**8-23**], Alk Phos / T
   Bili:24/0.3, Differential-Neuts:79.3 %, Lymph:13.9 %, Mono:6.0 %,
   Eos:0.5 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:195 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: The left atrium is moderately dilated. There is mild symmetric
   left ventricular hypertrophy with normal cavity size. Regional left
   ventricular wall motion is normal. Left ventricular systolic function
   is hyperdynamic (EF>75%). The estimated cardiac index is normal
   (>=2.5L/min/m2). Tissue Doppler imaging suggests a normal left
   ventricular filling pressure (PCWP<12mmHg). Right ventricular chamber
   size and free wall motion are normal. The right ventricular free wall
   is hypertrophied. The ascending aorta is mildly dilated. The aortic
   valve leaflets (3) are mildly thickened but aortic stenosis is not
   present. No aortic regurgitation is seen. The mitral valve leaflets are
   mildly thickened. There is no mitral valve prolapse. Trivial mitral
   regurgitation is seen. The pulmonary artery systolic pressure could not
   be determined. There is a trivial/physiologic pericardial effusion.
   Compared with the prior study (images reviewed) of [**2172-12-16**], the
   findings are similar. Mild biiventricular hypertrophy was present in
   the prior study
   Assessment and Plan
   65 year old woman with history of Myasthenia [**Last Name (un) **] and diverticular
   disease who presented with progressive abdominal pain from
   diverticulitis flare and respiratory failure secondary to pneumonia.
   .
   ## Respiratory Failure: Initial concern of PNA vs. myasthenia crisis.
   No organisms on bronch, no leukocytosis.  Unable to move to PSV,
   continues on CMV.  Per neuro, this is less likely myasthenia [**Last Name (un) 3383**]
   flare based on exam, but recommend following NIFs and initiating IVIG
   if evidence of new weakness, which they define as no improvement in the
   face of held mestinon and diuresis.  As this was in setting of pt being
   +6L LOS, we started diuresis on [**5-6**]. She is now 3.8L postive for LOS.
   Sputum, blood, urine cultures all negative to date.  Plan was to
   extubate patient this AM, but she is having large amounts of watery
   secretions that are making her unable to wean from propofol.  TTE shows
   hyperdynamic myocardium with preserved systolic function, given trivial
   TR/Jet, PA pressures are indeterminate.
   - Continue antibiotics: Vanc/Zosyn day 6
   - Diurese with IV lasix today, goal -1.5 - 2L as BP tolerates. Give
   another IV lasix 20 this am.
   - propofol for sedation
   - continue daily SBTs
   - follow NIFs/VCs/TVs while on vent (wean when VC>15, NIF<-30)
   - uptitrate PEEP to 10 cm H2O to facilitate improved LLL expansion
   - f/u neuro recs; specific question is whether pyridostigmine can be
   held in anticipation for extubation as this may be causing her
   excessive secretions, which are complicating plan for extubation
   .
   ## Diverticulitis: Diagnosed as outpatient and confirmed by abdominal
   imaging here with focal microperforation without drainable fluid
   collection or free air.  Per surgery can restart PO, we are advancing
   tube feeds
   - continue Zosyn
   - f/u surgery recs
   - nutrition recs re: tube feeds
   - start tube feeds
   .
   ## HypoK: Had hypokalemia on last admission and in ED, 3.4 this AM.
   Compounded by diuresis.
   - follow lytes [**Hospital1 **] now with diuresis and replete prn
   .
   ## MG: On pyridostigmine at home, holding as part of MG Flare diagnosis
   per neuro.
   - Avoid aminoglycosides as can precipitate MG
   - Could restart pyridostigmine once successfully extubated.
   - f/u neuro recs
   .
   ## HTN: Has h/o HTN. Currently not hypertensive and propofol will drop
   bps so will hold meds for now.
   .
   # Anemia: Pt noted to have a HCT drop in the past: 42.4
 36.9
 35.1
   28.9.  Could be [**3-12**] dilution from volume overload, as patient
s Hct
   back up to 32.4 yesterday and 34.1 today after lasix diuresis.
   - Trend HCT, xfuse for HCT < 21
   - B12 low normal on admission (259), will replete
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2176-5-6**] 03:55 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-5-4**] 09:51 PM
   Multi Lumen - [**2176-5-5**] 03:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2176-05-08 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2176-5-7**] 11:10 AM
   [**5-7**]
   - extubation tolerated well, on CPAP now.
   - restarted on Pyridostigmine Bromide 60 mg PO/NG Q8H, BP meds of HCTZ,
   metoprolol
   - given regular diet
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPrempro (Oral) (Estrogen
   Con/M-Progest Acet)
   Headache;
   Fiorinal (Oral) (Butalbital/Aspirin/Caffeine)
   Headache;
   Erythromycin Base
   Avoid all mycin
   Aleve (Oral) (Naproxen Sodium)
   leg edema.;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2176-5-6**] 01:54 PM
   Piperacillin - [**2176-5-7**] 01:55 PM
   Vancomycin - [**2176-5-7**] 08:07 PM
   Meropenem - [**2176-5-7**] 10:08 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-5-7**] 07:52 AM
   Heparin Sodium (Prophylaxis) - [**2176-5-7**] 04:06 PM
   Morphine Sulfate - [**2176-5-8**] 05:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2176-5-8**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 76 (55 - 85) bpm
   BP: 120/66(79) {102/48(61) - 154/92(104)} mmHg
   RR: 25 (9 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.1 kg (admission): 95.6 kg
   Height: 64 Inch
    CVP: 9 (8 - 255)mmHg
   Total In:
                                                                    956 mL
                                                                    121 mL
   PO:
                                                                    100 mL
                                                                     50 mL
   TF:
                                                                    166 mL
   IVF:
                                                                    690 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    950 mL
   Urine:
                                                                  1,680 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -724 mL
                                                                   -829 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 477 (477 - 477) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 93%
   ABG: ///36/
   NIF: -60 cmH2O
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Normal
   Labs / Radiology
   211 K/uL
   12.2 g/dL
   86 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.0 mEq/L
   13 mg/dL
   103 mEq/L
   147 mEq/L
   37.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2176-5-2**]  04:20 PM
                             [**2176-5-3**]  04:24 AM
                             [**2176-5-3**]  03:00 PM
                             [**2176-5-4**]  11:33 AM
                             [**2176-5-5**]  02:56 AM
                             [**2176-5-5**]  05:43 PM
                             [**2176-5-6**]  03:21 AM
                             [**2176-5-6**]  02:55 PM
                             [**2176-5-7**]  04:30 AM
                             [**2176-5-8**]  05:13 AM
   WBC
   7.7
   11.4
   6.7
   6.3
   6.6
   7.3
   8.0
   Hct
   35.1
   36.8
   28.9
   32.5
   32.4
   34.1
   37.1
   Plt
   142
   153
   143
   176
   162
   195
   211
   Cr
   0.6
   0.6
   0.7
   0.7
   0.5
   0.5
   0.5
   0.6
   0.7
   0.8
   Glucose
   88
   80
   73
   84
   66
   65
   71
   77
   91
   86
   Other labs: PT / PTT / INR:13.1/24.3/1.1, ALT / AST:[**8-23**], Alk Phos / T
   Bili:24/0.3, Differential-Neuts:79.3 %, Lymph:13.9 %, Mono:6.0 %,
   Eos:0.5 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:195 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   65 year old woman with history of Myasthenia [**Last Name (un) **] and diverticular
   disease who presented with progressive abdominal pain from
   diverticulitis flare and respiratory failure secondary to pneumonia.
   .
   ## Respiratory Failure: Initial concern of PNA vs. myasthenia crisis.
   No organisms on bronch, no leukocytosis.  Unable to move to PSV,
   continues on CMV.  Per neuro, this is less likely myasthenia [**Last Name (un) 3383**]
   flare based on exam, but recommend following NIFs and initiating IVIG
   if evidence of new weakness, which they define as no improvement in the
   face of held mestinon and diuresis.  As this was in setting of pt being
   +6L LOS, we started diuresis on [**5-6**]. She is now 3.8L postive for LOS.
   Sputum, blood, urine cultures all negative to date.  Plan was to
   extubate patient this AM, but she is having large amounts of watery
   secretions that are making her unable to wean from propofol.  TTE shows
   hyperdynamic myocardium with preserved systolic function, given trivial
   TR/Jet, PA pressures are indeterminate. NIF was -60 on [**5-7**] so patient
   was extubated and mestinon restarted 6-8 hours thereafter.
   - Continue antibiotics: Vanc/Zosyn day 7, plan to d/c Vanc after
   completing 8 days; Zosyn after completing 14 days (will confirm with
   surgery recs)
   - hold on diuresis given contraction bicarb
   - Doing well off extubation, CPAP at night, PT and OOB to chair to
   prevent atelectasis
   .
   ## Diverticulitis: Diagnosed as outpatient and confirmed by abdominal
   imaging here with focal microperforation without drainable fluid
   collection or free air.  Per surgery can restart PO, we are advancing
   tube feeds
   - continue Zosyn for 2 week course, will confirm duration with surgery
   recs
   - f/u surgery recs --> f/u outpatient
   - nutrition recs re: tube feeds
   - tubefeeds and advancing diet, will try regular diet today
   .
   ## HypoK: Had hypokalemia on last admission and in ED, 3.4 this AM.
   Compounded by diuresis.
   - follow lytes
   .
   ## MG: On pyridostigmine at home, restarted yesterday after successful
   extubation
   - Avoid aminoglycosides as can precipitate MG
   - Continue pyridostigmine home dose
   - f/u neuro recs
   .
   ## HTN: Has h/o HTN. Held meds while intubated, restarted on extubation
   .
   # Anemia: Pt noted to have a HCT drop in the past: 42.4
 36.9
 35.1
   28.9.  Could be [**3-12**] dilution from volume overload, as patient
s Hct
   back up to 32.4 yesterday and 34.1 today after lasix diuresis.
   - Trend HCT, xfuse for HCT < 21
   - B12 low normal on admission (259), will replete
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-5-4**] 09:51 PM
   Multi Lumen - [**2176-5-5**] 03:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor today

2176-05-08 14:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did not use CPAP overnight
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2176-5-7**] 11:10 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Prempro (Oral) (Estrogen
   Con/M-Progest Acet)
   Headache;
   Fiorinal (Oral) (Butalbital/Aspirin/Caffeine)
   Headache;
   Erythromycin Base
   Avoid all mycin
   Aleve (Oral) (Naproxen Sodium)
   leg edema.;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2176-5-6**] 01:54 PM
   Meropenem - [**2176-5-7**] 10:08 PM
   Vancomycin - [**2176-5-8**] 09:00 AM
   Piperacillin - [**2176-5-8**] 02:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-5-7**] 04:06 PM
   Famotidine (Pepcid) - [**2176-5-8**] 09:23 AM
   Morphine Sulfate - [**2176-5-8**] 10:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-5-8**] 02:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 77 (55 - 85) bpm
   BP: 105/50(59) {102/48(59) - 148/92(104)} mmHg
   RR: 18 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.1 kg (admission): 95.6 kg
   Height: 64 Inch
   CVP: 7 (7 - 255)mmHg
   Total In:
                                                                    956 mL
                                                                    848 mL
   PO:
                                                                    100 mL
                                                                    350 mL
   TF:
                                                                    166 mL
   IVF:
                                                                    690 mL
                                                                    498 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                  2,180 mL
   Urine:
                                                                  1,680 mL
                                                                  2,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -724 mL
                                                                 -1,332 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///36/
   NIF: -40 cmH2O
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), 2/6 SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : L base),
   (Breath Sounds: No(t) Clear : , Crackles : scattered on L, No(t)
   Bronchial: , No(t) Wheezes : , Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: improving, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   211 K/uL
   86 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.0 mEq/L
   13 mg/dL
   103 mEq/L
   147 mEq/L
   37.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2176-5-2**]  04:20 PM
                             [**2176-5-3**]  04:24 AM
                             [**2176-5-3**]  03:00 PM
                             [**2176-5-4**]  11:33 AM
                             [**2176-5-5**]  02:56 AM
                             [**2176-5-5**]  05:43 PM
                             [**2176-5-6**]  03:21 AM
                             [**2176-5-6**]  02:55 PM
                             [**2176-5-7**]  04:30 AM
                             [**2176-5-8**]  05:13 AM
   WBC
   7.7
   11.4
   6.7
   6.3
   6.6
   7.3
   8.0
   Hct
   35.1
   36.8
   28.9
   32.5
   32.4
   34.1
   37.1
   Plt
   142
   153
   143
   176
   162
   195
   211
   Cr
   0.6
   0.6
   0.7
   0.7
   0.5
   0.5
   0.5
   0.6
   0.7
   0.8
   Glucose
   88
   80
   73
   84
   66
   65
   71
   77
   91
   86
   Other labs: PT / PTT / INR:13.1/24.3/1.1, ALT / AST:[**8-23**], Alk Phos / T
   Bili:24/0.3, Differential-Neuts:79.3 %, Lymph:13.9 %, Mono:6.0 %,
   Eos:0.5 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:195 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PULMONARY EMBOLISM (PE), ACUTE
 DIVERTICULITIS
 PNEUMONIA, OTHER
   Doing better. Would likely benefit from pos pressure at night. Will ask
   Sleep to see her on the floor but should have humidifier with CPAP.
   Abd exam benign - will complete 2 weeks of abx per Surgery.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2176-5-4**] 09:51 PM
   Multi Lumen - [**2176-5-5**] 03:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes